US08058300B2
Step 1: 1-(Biphenyl-4-yl)cyclopropanecarboxylic acid isopropyl ester:
1-(Biphenyl-4-yl)cyclopropanecarboxylic acid (10 g, 42 mmol), isopropanol (100 mL), thionyl chloride (6.8 mL, 92 mmol) were heated to 65° C. for 4 hours. Sulfuric acid (20 mL) was added and heated at 65° C. overnight. The product is extracted with CH2Cl2 and water (2×) dried and evaporated to yield 10.8 g of the title compound.

reactant | 1-(Biphenyl-4-yl)cyclopropanecarboxylic acid | 42 mmol, 10 g | C1(=CC=C(C=C1)C1(CC1)C(=O)O)C1=CC=CC=C1 | C16H14O2
reactant | thionyl chloride | 92 mmol, 6.8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | Sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
reactant | isopropanol | 100 mL | C(C)(C)O | C3H8O
product | 1-(Biphenyl-4-yl)cyclopropanecarboxylic acid isopropyl ester | 10.8 g | C(C)(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C19H20O2
